US06566356B2
0.79 cm3 of triethylamine is added, at room temperature under an argon atmosphere, to a solution of 0.7 g of 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine in 25 cm3 of dichloromethane. The mixture is cooled to around 0° C. before adding thereto a solution of 1.2 g of pyrid-3-ylsulfonyl chloride in 25 cm3 of dichloromethane, and then it is stirred at room temperature for 16 hours. The reaction mixture is diluted with 50 cm3 of dichloromethane and is then washed with twice 25 cm3 of distilled water. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluant: dichloromethane/methanol (97.5/2.5 by volume)]. 0.7 g of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}pyrid-3-ylsulfonamide is obtained in the form of a cream-colored foam which solidifies in the presence of isopropanol into a cream-colored powder melting at 164° C.

reactant | triethylamine | 0.79 cm3 | C(C)N(CC)CC | C6H15N
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine | 0.7 g | ClC1=CC=C(C=C1)C(N1CC(C1)N)C1=CC=C(C=C1)Cl | C16H16Cl2N2
reactant | pyrid-3-ylsulfonyl chloride | 1.2 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}pyrid-3-ylsulfonamide | 0.7 g | ClC1=CC=C(C=C1)C(N1CC(C1)NS(=O)(=O)C=1C=NC=CC1)C1=CC=C(C=C1)Cl | C21H19Cl2N3O2S
